US08431695B2
Preparation of 6-[7-(1-acetylpiperidin-4-yl)-4-aminopyrrolo[2,1-f][1,2,4]triazin-5-yl]-2-benzyl-2H-indazole-3-carbonitrile
To a solution of 4-amino-5-(2-benzyl-2H-indazol-6-yl)-7-piperidin-4-ylpyrrolo[2,1-f][1,2,4]triazine-6-carbonitrile (50 mg, 0.11 mmol) in THF (2 mL) was added. N,N-diisopropylethylamine (39 μL, 0.22 mmol) followed by acetyl chloride (8.8 μL, 0.11 mmol). The mixture was stirred at rt overnight. The mixture was diluted with dichloromethane (25 mL) and was washed with H2O (20 mL), brine, and was dried (Na2SO4) and concentrated. The crude material was purified by ISCO® chromatography to obtain the desired product (20 mg, 37%). 1H NMR (400 MHz, DMSO-d6) δ 8.60 (s, 1H), 8.02 (s, 1H), 7.86 (d, 1H), 7.68 (s, 1H), 7.40-7.24 (m, 5H), 7.11 (d, 1H), 5.66 (s, 2H), 4.60-4.56 (m, 1H), 3.00-3.96 (m, 1H), 3.71-3.62 (m, 1H), 3.22-3.18 (m, 1H), 2.66-2.61 (m, 1H), 2.02 (s, 3H), 2.04-1.88 (m, 4H); LC-MS m/z[M+H]+491.3, RT 2.83 min.

reactant | 4-amino-5-(2-benzyl-2H-indazol-6-yl)-7-piperidin-4-ylpyrrolo[2,1-f][1,2,4]triazine-6-carbonitrile | 0.11 mmol, 50 mg | NC1=NC=NN2C1=C(C(=C2C2CCNCC2)C#N)C=2C=CC1=CN(N=C1C2)CC2=CC=CC=C2 | C26H24N8
reactant | N,N-diisopropylethylamine | 0.22 mmol, 39 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | acetyl chloride | 0.11 mmol, 8.8 μL | C(C)(=O)Cl | C2H3ClO
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | 6-[7-(1-acetylpiperidin-4-yl)-4-aminopyrrolo[2,1-f][1,2,4]triazin-5-yl]-2-benzyl-2H-indazole-3-carbonitrile | 20 mg, 37% | C(C)(=O)N1CCC(CC1)C1=CC(=C2C(=NC=NN21)N)C=2C=CC1=C(N(N=C1C2)CC2=CC=CC=C2)C#N | C28H26N8O
